US07026349B2
c) 3-((R)-1-Methyl-pyrrolidin-3-yloxy)-4-trifluoromethyl-phenylamine
A solution of 2-((R)-1-Methyl-pyrrolidin-3-yloxy)-4-nitrobenzotrifluoride (7.8 g, 26.9 mmol) in ethyl acetate (50 ml) was treated with 10% platinum on carbon (200 mg) then subjected to 40 psi hydrogen pressure for 3 hrs. The slurry was treated with anhydrous magnesium sulfate (5 g) then filtered through a pad of Celite. The filter cake was rinsed with ethyl acetate (2×25 ml) then the filtrate was evaporated under reduced pressure to an oil. This oil was evaporated twice for dichloromethane (50 ml) to remove trapped ethyl acetate. This gave the product as a clear light brown oil that solidified on standing (6.9 g, 99%): LCMS 249 (M++H).

reactant | 2-((R)-1-Methyl-pyrrolidin-3-yloxy)-4-nitrobenzotrifluoride | 26.9 mmol, 7.8 g | CN1C[C@@H](CC1)OC1=C(C=CC(=C1)[N+](=O)[O-])C(F)(F)F | C12H13F3N2O3
reactant | hydrogen | [H][H] | H2
reactant | magnesium sulfate | 5 g | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
catalyst | platinum on carbon | 200 mg | [Pt] | Pt
product | 3-((R)-1-Methyl-pyrrolidin-3-yloxy)-4-trifluoromethyl-phenylamine | CN1C[C@@H](CC1)OC=1C=C(C=CC1C(F)(F)F)N | C12H15F3N2O
